US07265120B2
Under nitrogen atmosphere, 2-isopropyl-6-(2-oxo-2-phenylethyl)-3(2H)-pyridazinone (513 mg) was added to a suspension of NaH (60% dispersion in mineral oil) (84 mg) in THF (5 ml) and the mixture was stirred at 45-50° C. for 30 minutes. After addition of isoamyl nitrite (0.27 ml), the mixture was stirred at the same temperature for 8 hours. The mixture was dissolved in EtOAc, washed with 1N HCl and brine and dried over MgSO4. The mixture was concentrated under reduced pressure and subjected to column chromatography on silica gel eluting with a mixture of n-hexane and EtOAc (50:50 v/v) to give 1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-phenyl-1,2-ethanedione 1-oxime as a solid (185 mg).

reactant | 2-isopropyl-6-(2-oxo-2-phenylethyl)-3(2H)-pyridazinone | 513 mg | C(C)(C)N1N=C(C=CC1=O)CC(C1=CC=CC=C1)=O | C15H16N2O2
reactant | NaH | 84 mg | [H-].[Na+]
reactant | isoamyl nitrite | 0.27 ml | N(=O)OCCC(C)C | C5H11NO2
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-(1-isopropyl-6-oxo-1,6-dihydro-3-pyridazinyl)-2-phenyl-1,2-ethanedione 1-oxime | 185 mg | C(C)(C)N1N=C(C=CC1=O)C(C(=O)C1=CC=CC=C1)=NO | C15H15N3O3
